US07629358B2
Preparation 147: Methyl(3-{2-[((2R)-2-[4-(benzyloxy)-3-(hydroxymethyl)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)amino]-2-methylpropyl}phenyl)acetate
A mixture of [2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl) phenyl]methanol (preparation 23), (3.4 g, 7.5 mmol), [3-(2-amino-2-methylpropyl)phenyl]acetic acid (preparation 146), (1.7 g, 7.5 mmol) and N,N-diisopropylethylamine (1.4 mL, 8 mmol) in dimethylsulfoxide (7.5 mL) was stirred at 90° C. for 28 hours. The reaction mixture was then cooled, diluted with ethyl acetate and washed with water. The organic solution was then dried over magnesium sulfate, concentrated in vacuo and the residue was purified by column chromatography on silica gel, eluting with ethyl acetate:pentane, 66:33, to afford the title compound as a colourless oil in 50% yield, 2.2 g. 1H NMR (400 MHz, CDCl3) δ: 7.44-7.31 (6H, m), 7.30-7.19 (3H, m), 7.13-7.05 (2H, m), 6.80 (1H, d), 4.75-4.66 (3H, m), 3.68 (3H, s), 3.59 (2H, s), 2.90-2.72 (4H, m), 1.22-1.09 (6H, m), 0.70 (9H, s), −0.06 (3H, s), −0.28 (3H, s) ppm.

reactant | [2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl) phenyl]methanol | 7.5 mmol, 3.4 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CBr)O[Si](C)(C)C(C)(C)C)CO | C22H31BrO3Si
reactant | [3-(2-amino-2-methylpropyl)phenyl]acetic acid | 7.5 mmol, 1.7 g | NC(CC=1C=C(C=CC1)CC(=O)O)(C)C | C12H17NO2
reactant | N,N-diisopropylethylamine | 8 mmol, 1.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylsulfoxide | 7.5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl(3-{2-[((2R)-2-[4-(benzyloxy)-3-(hydroxymethyl)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)amino]-2-methylpropyl}phenyl)acetate | 50% yield | COC(CC1=CC(=CC=C1)CC(C)(C)NC[C@H](O[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)OCC1=CC=CC=C1)CO)=O | C35H49NO5Si
